US05011608
E. Extraction of Catecholamine from Sample
Human plasma will be used as the model system. It is preferred that the procedures described herein below be carried out in a fume hood. Two milliliters of plasma are placed into a cold, silicone-lined reaction tube (preferably glass and with a screw cap, Teflon-lined lid) to which 250 μL of the internal standard solution are added (concentration of the standard solution is 4 ng DOE per 50 μL 80 mM acetic acid). To this mixture is added 1 mL of a 2 M NH4OH-NH4Cl buffer containing 0.2% (w/v) DPBEA and 0.5% (w/v) EDTA. Finally, add 5 mL of an heptane-1% octanol solution containing 0.25% (w/v) TOABr. The tube is tightly closed and the "cocktail" is shaken for two minutes at high speed (e.g., 280 excursions per minute) in a reciprocating utility shaker. The sample is then centrifuged at 1,200×g for 5 minutes in a refrigerated centrifuge.

reactant | acetic acid | 80 mM, 50 μL | C(C)(=O)O | C2H4O2
reactant | NH4OH NH4Cl | 2 M | [NH4+].[OH-].[NH4+].[Cl-]
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | heptane | 5 mL | CCCCCCC | C7H16
product | Catecholamine | C1(O)=C(O)C(=CC=C1)N | C6H7NO2
